US07253190B2
Following the procedure in COMPOUND 3 for the synthesis of intermediate 5-(3-bromophenyl)-2H-tetrazole, 3-chlorobenzonitrile (1.88 g, 13.67 mmol) was employed to obtain 5-(3-chlorophenyl)-2H-tetrazole.

reactant | 5-(3-bromophenyl)-2H-tetrazole | BrC=1C=C(C=CC1)C=1N=NNN1 | C7H5BrN4
reactant | 3-chlorobenzonitrile | 13.67 mmol, 1.88 g | ClC=1C=C(C#N)C=CC1 | C7H4ClN
product | 5-(3-chlorophenyl)-2H-tetrazole | ClC=1C=C(C=CC1)C=1N=NNN1 | C7H5ClN4
